US04504662
5,7-Dimethyl-3-propylamino-isoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione.
A mixture of 0.588 g of 3-amino-5,7-dimethyl-isoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione, 15 ml of dimethylformamide, 2.5 g of propyl iodide and 1.0 g of potassium carbonate was stirred at 100° C. for 3 hours. From the reaction solution was removed the solvent under reduced pressure. To the residue was added water, which was subjected to extraction with chloroform. The chloroform layer was taken and dried over anhydrous sodium sulfate, from which was removed the solvent. The resultant residue was chromatographed on a column of silica gel (30 g), and the column was eluted with chloroform:acetone:formic acid (20:1:0.1). From the elute was recovered the desired compound, which was recrystallized from isopropyl ether-acetone to give 0.217 g of colorless prisms, melting point: 164°-166° C.

reactant | 3-amino-5,7-dimethyl-isoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.588 g | NC=1ON=C2N(C(N(C(C21)=O)C)=O)C | C7H8N4O3
reactant | propyl iodide | 2.5 g | C(CC)I | C3H7I
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5,7-Dimethyl-3-propylamino-isoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.217 g | CN1C(N(C=2C(C1=O)=C(ON2)NCCC)C)=O | C10H14N4O3
